* Impedance matching network and output filter from the PA

* Unless otherwise mentioned, assume all inductors have a Q of around 55
* at 435MHz.  This is a pretty good assumption for the Coilcraft 0402DC
* inductors.
*                     input
*                     |   output
*                     |   |
.SUBCKT ImpMatchPAOut in  out

* Impedance matching network
C1	in	out	59p
L1	in	a3	6.9n
Rl1	a3	0	.34
Cl1	in	0	.037p

.ENDS

*                  input
*                  |   output
*                  |   |
.SUBCKT Filt440MHz in  out

* 460MHz Elliptic lowpass filter, simulated from:
* https://markimicrowave.com/technical-resources/tools/lc-filter-design-tool/
* 5rd order, shunt first, 460MHz cutoff, .10db ripple in passband, 50
* ohm input, 50 ohm output impedance, 50dB stopband attenuation.

* 7.32p
C1	in	0	7.3p

* 21.71n
L2	in	a1	22n
Rl2	a1	a2	1.1
Cl2	in	a2	.046p
* 767.6f
C2	in	a2	.75p

* 11.84p
C3	a2	0	12p

* 17.96n
L4	a2	a3	18n
Rl4	a3	out	.89
Cl4	a2	out	.045p
* 2.16p
C4	a2	out	2.2p

* 6.2p
C5	out	0	6.2p

* This is the inductor used to bleed off static from the antenna
L0	out	b0	470n
R0	b0	0	12

.ENDS

V1 ina 0 dc 0 AC 1 sin(0 1 435MEG 0 0 0)

*Rsrc ina  ina1 6.23
*Csrc ina1 ina2 35.1p
Rsrc ina  ina2 50


* Not real, used for DC bias at ina2 to avoid warnings
Rb1  ina2 0    1meg

* Used for current measurement.
Vmin ina2 in AC 0 DC 0

*X1 in  im1 ImpMatchPAOut
R1 in  im1 .001


* Used for current measurement.
Vm1 im1 im2 AC 0 DC 0

X2 im2 out Filt440MHz

* Used for current measurement.
Vmout out out2 DC 0 AC 0

Rload out2 0    50
*Rload out2 out1 6.23
*Cload out1 0    27p

.control
*tran 1ns 102000ns 101000ns
*plot v(in1), v(out)

ac lin 50000 3Meg 1000Meg
plot db((v(out) * i(Vmout)) / (vm(ina1) * i(V1)))
plot vr(out) vi(out) vp(out)

.endc

.end
